US04141992
2,6-Bis[(1-methyl-2-pyrrolidinylidene amino]anthroquinone
To a solution of 34.5 g of 1-methyl-2-pyrrolidinone in 150 ml. of CH3CN was added 18.4 g of phosphorous oxychloride at 5°-10° C. The mixture was stirred at room temperature for 1 hour. To the mixture was added 11.9 g of 2,6-diaminoanthraquinone. The resulting mixture was stirred at 60° C. for 10 hours, poured into 1000 ml of ice-water and basified with 5N NaOH. Reddish crystals thus obtained were collected by filtration and washed with water. Recrystallization from methyl cellusolve gave 14.0 g of reddish crystals, mp 267°-269° C.

reactant | 1-methyl-2-pyrrolidinone | 34.5 g | CN1C(CCC1)=O | C5H9NO
reactant | phosphorous oxychloride | 18.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-diaminoanthraquinone | 11.9 g | NC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)N)=O | C14H10N2O2
reactant | NaOH | 5N | [OH-].[Na+]
reactant | CH3CN | CC#N | C2H3N
product | (1-methyl-2-pyrrolidinylidene amino]anthroquinone | 14.0 g | CN1C(CCC1)=NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C19H16N2O2
